### PR TITLE
[Merged by Bors] - refactor(LinearAlgebra/Matrix): move lemmas around to reduce imports

### PR DESCRIPTION
**Pull request by llllvvuu**
This makes results such as `Matrix.det_one_sub_mul_comm` and `Matrix.eval_det` more accessible.

From https://github.com/leanprover-community/mathlib4/pull/29709#issuecomment-3297172309,

> | File | Base Count | Head Count | Change |
> | --- | --- | --- | --- |
> | Mathlib.LinearAlgebra.Matrix.SchurComplement | 2231 | 1438 | -793 (-35.54%) |

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MatrixPolynomialAlgebra.lean [hunk 1]
```diff
@@ -131,6 +151,20 @@ theorem support_subset_support_matPolyEquiv (m : Matrix n n R[X]) (i j : n) :
   intro hk
   rw [← matPolyEquiv_coeff_apply, hk, zero_apply]
 
+theorem eval_det {R : Type*} [CommRing R] (M : Matrix n n R[X]) (r : R) :
+    Polynomial.eval r M.det = (Polynomial.eval (scalar n r) (matPolyEquiv M)).det := by
+  rw [Polynomial.eval, ← coe_eval₂RingHom, RingHom.map_det]
+  apply congr_arg det
+  ext
+  symm
+  exact matPolyEquiv_eval _ _ _ _
```
Comment (themathqueen) [inline Mathlib/RingTheory/MatrixPolynomialAlgebra.lean]: hmm we may as well golf this? :eyes:
```suggestion
  exact congr_arg det <| ext fun _ _ ↦ matPolyEquiv_eval _ _ _ _ |>.symm
```

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 2]
```diff
@@ -666,6 +666,37 @@ theorem commute_iff [DecidableEq n] {A B : Matrix n n 𝕜} (hA : A.PosDef) (hB
...
+theorem fromBlocks₁₁ [DecidableEq m] {A : Matrix m m R'}
+    (B : Matrix m n R') (D : Matrix n n R') (hA : A.PosDef) [Invertible A] :
+    (fromBlocks A B Bᴴ D).PosSemidef ↔ (D - Bᴴ * A⁻¹ * B).PosSemidef := by
+  rw [PosSemidef, IsHermitian.fromBlocks₁₁ _ _ hA.1]
+  constructor
+  · refine fun h => ⟨h.1, fun x => ?_⟩
+    have := h.2 (-((A⁻¹ * B) *ᵥ x) ⊕ᵥ x)
+    rw [dotProduct_mulVec, schur_complement_eq₁₁ B D _ _ hA.1, neg_add_cancel, dotProduct_zero,
+      zero_add] at this
+    rw [dotProduct_mulVec]; exact this
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean]: also here
```suggestion
    rwa [dotProduct_mulVec, schur_complement_eq₁₁ B D _ _ hA.1, neg_add_cancel, dotProduct_zero,
      zero_add, ← dotProduct_mulVec] at this
```

File: Mathlib/LinearAlgebra/Matrix/Hermitian.lean [hunk 3]
```diff
@@ -251,6 +251,61 @@ theorem IsHermitian.zpow [Fintype m] [DecidableEq m] {A : Matrix m m α} (h : A.
...
+  abel
+
+namespace IsHermitian
+
+theorem fromBlocks₁₁ [Fintype m] [DecidableEq m] {A : Matrix m m α} (B : Matrix m n α)
+    (D : Matrix n n α) (hA : A.IsHermitian) :
+    (Matrix.fromBlocks A B Bᴴ D).IsHermitian ↔ (D - Bᴴ * A⁻¹ * B).IsHermitian := by
+  have hBAB : (Bᴴ * A⁻¹ * B).IsHermitian := by
+    apply isHermitian_conjTranspose_mul_mul
+    apply hA.inv
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Hermitian.lean]:
```suggestion
  have hBAB : (Bᴴ * A⁻¹ * B).IsHermitian := isHermitian_conjTranspose_mul_mul _ hA.inv
```

File: Mathlib/LinearAlgebra/Matrix/Hermitian.lean [hunk 4]
```diff
@@ -251,6 +251,61 @@ theorem IsHermitian.zpow [Fintype m] [DecidableEq m] {A : Matrix m m α} (h : A.
...
+  rw [isHermitian_fromBlocks_iff]
+  constructor
+  · intro h
+    apply IsHermitian.sub h.2.2.2 hBAB
+  · intro h
+    refine ⟨hA, rfl, conjTranspose_conjTranspose B, ?_⟩
+    rw [← sub_add_cancel D]
+    apply IsHermitian.add h hBAB
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Hermitian.lean]:
```suggestion
  exact ⟨fun h ↦ h.2.2.2.sub hBAB, fun h ↦ ⟨hA, rfl, conjTranspose_conjTranspose B,
    sub_add_cancel D _ ▸ h.add hBAB⟩⟩
```

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean [hunk 5]
```diff
@@ -445,88 +444,4 @@ end Det
...
-theorem IsHermitian.fromBlocks₂₂ [Fintype n] [DecidableEq n] (A : Matrix m m 𝕜) (B : Matrix m n 𝕜)
-    {D : Matrix n n 𝕜} (hD : D.IsHermitian) :
-    (Matrix.fromBlocks A B Bᴴ D).IsHermitian ↔ (A - B * D⁻¹ * Bᴴ).IsHermitian := by
-  rw [← isHermitian_submatrix_equiv (Equiv.sumComm n m), Equiv.sumComm_apply,
-    fromBlocks_submatrix_sum_swap_sum_swap]
-  convert IsHermitian.fromBlocks₁₁ _ _ hD <;> simp
-
-variable [PartialOrder 𝕜] [StarOrderedRing 𝕜]
-
-theorem PosSemidef.fromBlocks₁₁ [Fintype m] [DecidableEq m] [Fintype n] {A : Matrix m m 𝕜}
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:504]: This is mentioned in the module docstring; can you move that docstring with the lemma?

**Comment by ocfnash** [comment]
Thanks!

bors merge
